* Extracted by KLayout with GF180MCU LVS runset on : 17/08/2026 10:34

.SUBCKT B04_BMR VbiasP VbiasN VDD GND
X$4 VbiasN \$60 VbiasN VbiasP VDD GND B04_diff_amp
C$1 VbiasN VbiasP 4e-12 cap_mim_2f0fF A=2000P P=800U
M$21 \$64 VbiasN GND GND nfet_03v3 L=1U W=20U AS=8.8P AD=8.8P PS=40.88U
+ PD=40.88U
R$22 GND \$26 GND 410000 ppolyf_u_1k L=820U W=2U
M$42 VbiasP \$64 VbiasN GND nfet_03v3 L=1U W=1U AS=0.44P AD=0.44P PS=2.88U
+ PD=2.88U
M$43 \$73 \$64 \$64 VDD pfet_03v3 L=40U W=0.5U AS=0.22P AD=0.22P PS=1.88U
+ PD=1.88U
M$44 VDD \$72 \$72 VDD pfet_03v3 L=40U W=0.5U AS=0.22P AD=0.22P PS=1.88U
+ PD=1.88U
M$45 \$73 \$73 \$72 VDD pfet_03v3 L=40U W=0.5U AS=0.22P AD=0.22P PS=1.88U
+ PD=1.88U
M$46 VDD VbiasP VbiasN VDD pfet_03v3 L=4U W=2U AS=0.88P AD=0.88P PS=5.76U
+ PD=5.76U
M$48 \$60 VbiasP VDD VDD pfet_03v3 L=4U W=2U AS=0.88P AD=0.88P PS=5.76U PD=5.76U
M$50 VDD VDD VDD VDD pfet_03v3 L=4U W=2U AS=0.88P AD=0.88P PS=5.76U PD=5.76U
M$52 GND VbiasN VbiasN GND nfet_03v3 L=4U W=10U AS=4.4P AD=4.4P PS=20.88U
+ PD=20.88U
M$53 GND GND GND GND nfet_03v3 L=4U W=20U AS=8.8P AD=8.8P PS=41.76U PD=41.76U
M$55 \$60 VbiasN \$26 GND nfet_03v3 L=4U W=40U AS=14P AD=14P PS=62.8U PD=62.8U
.ENDS B04_BMR

.SUBCKT B04_diff_amp Vbias V+ V\x2d Vo VDD GND
M$1 VDD \$7 \$7 VDD pfet_03v3 L=4U W=13U AS=5.72P AD=5.72P PS=27.76U PD=27.76U
M$3 VDD \$7 Vo VDD pfet_03v3 L=4U W=13U AS=5.72P AD=5.72P PS=27.76U PD=27.76U
M$5 VDD VDD VDD VDD pfet_03v3 L=4U W=13U AS=5.72P AD=5.72P PS=27.76U PD=27.76U
M$7 GND Vbias \$4 GND nfet_03v3 L=4U W=2.2U AS=0.968P AD=0.968P PS=5.28U
+ PD=5.28U
M$8 \$7 V+ \$4 GND nfet_03v3 L=4U W=1.1U AS=0.484P AD=0.484P PS=3.96U PD=3.96U
M$10 \$4 V\x2d Vo GND nfet_03v3 L=4U W=1.1U AS=0.484P AD=0.484P PS=3.96U
+ PD=3.96U
M$12 GND GND GND GND nfet_03v3 L=4U W=1.1U AS=0.484P AD=0.484P PS=3.96U PD=3.96U
.ENDS B04_diff_amp
